US06114390
d) 2,3-Dihydro-2-(phenylmethyl)-1H-isoindole-5-carboxamide
To a mixture of 200 ml of conc. aqueous ammonia and 50 ml of tetrahydrofuran were added, in batches, 20.0 g (64.9 mMol) of 2,3-dihydro-2-(phenylmethyl)-1H-isoindole-5-carboxylic acid chloride-hydrochloride and the mixture was stirred overnight at ambient temperature. The precipitate formed was suction filtered, washed thoroughly with water and dried at 50° C. in a circulating air dryer. The desired compound was obtained in a quantitative yield in the form of colourless crystals.

reactant | ammonia | 200 ml | N | H3N
reactant | 2,3-dihydro-2-(phenylmethyl)-1H-isoindole-5-carboxylic acid chloride-hydrochloride | 64.9 mMol, 20.0 g | Cl.C1(=CC=CC=C1)CN1CC2=CC=C(C=C2C1)C(=O)Cl
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-2-(phenylmethyl)-1H-isoindole-5-carboxamide | quantitative yield | C1(=CC=CC=C1)CN1CC2=CC=C(C=C2C1)C(=O)N | C16H16N2O
